US09210927B2
Preparation of (Z)-5-((E)-3-(3,5-Dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-N′-hydroxy-2-(1H-1,2,4-triazol-1-yl)benzimidamide (DC59)
A solution of (E)-5-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-2-(1H-1,2,4-triazol-1-yl)benzonitrile (0.3 g, 0.71 mmol), sodium acetate (0.087 g, 1.065 mmol) and hydroxylammonium chloride (0.072 g, 1.065 mmol) in 9:1 ethanol/water mixture (10 mL) was stirred at 70° C. for 8 h. The reaction was cooled to ambient temperature, and the ethanol was evaporated. The residue was dissolved in water and extracted with EtOAc (2×). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford the title compound as an off white solid.

reactant | (E)-5-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-2-(1H-1,2,4-triazol-1-yl)benzonitrile | 0.71 mmol, 0.3 g | ClC=1C=C(C=C(C1)Cl)C(/C=C/C=1C=CC(=C(C#N)C1)N1N=CN=C1)C(F)(F)F | C19H11Cl2F3N4
reactant | sodium acetate | 1.065 mmol, 0.087 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylammonium chloride | 1.065 mmol, 0.072 g | [Cl-].O[NH3+]
solvent | ethanol water | 10 mL | C(C)O.O
product | (Z)-5-((E)-3-(3,5-Dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-N′-hydroxy-2-(1H-1,2,4-triazol-1-yl)benzimidamide | ClC=1C=C(C=C(C1)Cl)C(/C=C/C=1C=CC(=C(/C(/N)=N/O)C1)N1N=CN=C1)C(F)(F)F | C19H14Cl2F3N5O
